US07238701B2
Step 4. Preparation of Example 14: ethyl 4-[(3-bromophenyl)amino]-5,6,7,8-tetrahydro[1]benzothieno[2,3-d]pyrimidine-7-carboxylate
In a 25 mL round-bottom flask were placed 250 mg (0.84 mmol, 1.1 equiv) of 4-chloro-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-7-carboxylic acid ethyl ester and 131 mg (0.77 mmol, 1 equiv) m-bromoaniline in 10 mL of ethanol with one drop conc HCl. The flask was equipped with a reflux condenser and heated at 70° C. for 4 h. The mixture was allowed to cool to rt and ethanol was concentrated in vacuo. The resulting crude residue was re-dissolved in EtOAc (10 mL), poured into a separatory funnel and washed with satd NaHCO3 (1×10 mL). The organic layer was dried (MgSO4), filtered and concentrated to give a crude oil. The crude material was further purified by MPLC (Biotage) using 1/4 EtOAc/Hex to provide 257 mg (77%) of the desired product, 14, as a white powder. 1H-NMR (CDCl3-d) δ 8.44 (s, 1H), 7.92 (s, 1H), 7.55 (m, 1H), 7.23 (m, 2H), 7.08 (s, 1H), 4.22 (q, 2H), 3.14 (m, 4H), 2.91 (m, 1H), 2.39 (m, 1H), 2.14 (m, 1H), 1.30 (t, 3H); LCMS RT=3.48 min; [M+H]+=432.

reactant | 4-chloro-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-7-carboxylic acid ethyl ester | 0.84 mmol, 250 mg, 1.1 equiv | C(C)OC(=O)C1CC2=C(C3=C(N=CN=C3Cl)S2)CC1 | C13H13ClN2O2S
reactant | m-bromoaniline | 0.77 mmol, 131 mg, 1 equiv | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | HCl | one drop | Cl | ClH
product | ethyl 4-[(3-bromophenyl)amino]-5,6,7,8-tetrahydro[1]benzothieno[2,3-d]pyrimidine-7-carboxylate | 257 mg, 77% | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)SC1=C2CCC(C1)C(=O)OCC | C19H18BrN3O2S
